US08217064B2
A mixture of ethyl 2-(3-bromo-5-chloro-4-(2,2,2-trifluoroethoxy)phenyl)-4-methylpentanoate (1 g, 1 eq), 4-Trifluoromethyl phenylboronic acid (2.6 g, 1.4 eq), Pd(PPh3)4 (1.3 g, 0.1 eq) and Cesium Fluoride (13.1 g, 2 eq) in DME (30 ml) was stirred for overnight at 100° C. Upon completion, the precipitate was removed by filtration. The filtrate was diluted with water and extracted with ethyl acetate (2×50 mL). The combined organic layers were washed with water followed by brine, dried over Na2SO4 and concentrated under vacuo. The residue was purified by Flash Column Chromatography to give ethyl 2-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-4-methylpentanoate in 74% yield (1.08 g). 1H NMR (CDCl3, 400 MHz): 7.68 (m, 5H), 7.43 (s, 1H); 7.24 (s, 1H); 4.4 (q, 2H), 4.13 (q, 2H); 3.55 (t, 1H); 1.93 (m, 1H), 1.58 (m, 1H); 1.45 (m, 1H); 1.24 (t, 3H), 0.92 (d, 6H);

reactant | ethyl 2-(3-bromo-5-chloro-4-(2,2,2-trifluoroethoxy)phenyl)-4-methylpentanoate | 1 g, 1 eq | BrC=1C=C(C=C(C1OCC(F)(F)F)Cl)C(C(=O)OCC)CC(C)C | C16H19BrClF3O3
reactant | 4-Trifluoromethyl phenylboronic acid | 2.6 g, 1.4 eq | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | Cesium Fluoride | 13.1 g, 2 eq | [F-].[Cs+]
solvent | DME | 30 ml | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 1.3 g, 0.1 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 2-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-4-methylpentanoate | 74% yield | ClC=1C=C(C=C(C1OCC(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)C(C(=O)OCC)CC(C)C | C23H23ClF6O3
